US07541372B2
{5-[5-(5-Methyl-3-phenyl-isoxazol-4-yl)-[1,3,4]oxadiazol-2-yl]-pyridin-2-yl}-(tetrahydro-pyran-4-yl)-amine
As described for example 136b, 2-chloro-5-[5-(5-methyl-3-phenyl-isoxazol-4-yl)-[1,3,4]oxadiazol-2-yl]-pyridine (200 mg, 0.59 mmol) was converted using 4-aminotetrahydropyran instead of morpholine to the title compound (117 mg, 49%) which was obtained as a light yellow solid. MS: m/e=404.4 [M+H]+.

reactant | 2-chloro-5-[5-(5-methyl-3-phenyl-isoxazol-4-yl)-[1,3,4]oxadiazol-2-yl]-pyridine | 0.59 mmol, 200 mg | ClC1=NC=C(C=C1)C=1OC(=NN1)C=1C(=NOC1C)C1=CC=CC=C1 | C17H11ClN4O2
reactant | 4-aminotetrahydropyran | NC1CCOCC1 | C5H11NO
product | {5-[5-(5-Methyl-3-phenyl-isoxazol-4-yl)-[1,3,4]oxadiazol-2-yl]-pyridin-2-yl}-(tetrahydro-pyran-4-yl)-amine | 117 mg, 49% | CC1=C(C(=NO1)C1=CC=CC=C1)C1=NN=C(O1)C=1C=CC(=NC1)NC1CCOCC1 | C22H21N5O3
